US07592363B2
Preparation of N-(3-iodophenyl)morpholine-4-carboxamide
A solution of 3-iodophenylisocyanate (0.1 g, 0.41 mmol) and morpholine (0.04 mL, 0.45 mmol) in 2 mL dioxane were heated at 100° C. overnight. The solvent was evaporated and the resulting product was used without purification.

reactant | 3-iodophenylisocyanate | 0.41 mmol, 0.1 g | IC=1C=C(C=CC1)N=C=O | C7H4INO
reactant | morpholine | 0.45 mmol, 0.04 mL | N1CCOCC1 | C4H9NO
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-(3-iodophenyl)morpholine-4-carboxamide | IC=1C=C(C=CC1)NC(=O)N1CCOCC1 | C11H13IN2O2
